US07402595B2
4-(6-chloro-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzoic acid methyl ester
In the same manner as in Example 458, Step 2, the title compound was synthesized from 4-[(2-hydroxybutylamino)methyl]benzoic acid methyl ester hydrochloride and 2-benzoyl-4-chlorobenzoic acid.

reactant | 4-[(2-hydroxybutylamino)methyl]benzoic acid methyl ester hydrochloride | Cl.COC(C1=CC=C(C=C1)CNCC(CC)O)=O
reactant | 2-benzoyl-4-chlorobenzoic acid | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC(=C1)Cl | C14H9ClO3
product | 4-(6-chloro-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN1C(C2=CC=C(C=C2C(=C1C(CC)=O)C1=CC=CC=C1)Cl)=O)=O | C27H22ClNO4
